US07858621B2
To a suspension of 3-(2-butoxy-6-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methanesulfonylamino-benzyl)-acrylamide (19.3 mg, 0.039 mmol) in 5% Pd/C (6 mg) was added CH3OH (1.0 ml). The mixture was purged three times with hydrogen gas (50 psi) and shaken for 40 min at room temperature. The reaction mixture was filtered over celite pad and concentrated under reduced pressure. The crude residue was chromatographed to yield the 3-(2-butoxy-6-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methanesulfonylamino-benzyl)-propionamide (19 mg, 98%).

reactant | 3-(2-butoxy-6-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methanesulfonylamino-benzyl)-acrylamide | 0.039 mmol, 19.3 mg | C(CCC)OC1=NC(=CC=C1C=CC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)F)C(F)(F)F | C21H23F4N3O4S
reactant | CH3OH | 1.0 ml | CO | CH4O
solvent | Pd/C | 6 mg | [Pd] | Pd
product | 3-(2-butoxy-6-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methanesulfonylamino-benzyl)-propionamide | 19 mg, 98% | C(CCC)OC1=NC(=CC=C1CCC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)F)C(F)(F)F | C21H25F4N3O4S
